US04576957
N-(4-Chlorophenyl)-N'-[3-(1H-imidazol-1-yl)propyl]urea
A 2.5 g. portion of 1H-imidazole-1-propanamine was added to 20 ml. of toluene and then 7 ml. of tetrahydrofuran was added to produce solution. A solution of 3.1 g. of distilled p-chlorophenyl isocyanate in 20 ml. of toluene was added, the mixture was stirred overnight and then evaporated to a waxy solid. This solid was triturated with ether and the resulting crystals recrystallized from chilled acetone, giving 2.3 g. of the desired product as colorless crystals, mp. 123°-125° C.

reactant | 1H-imidazole-1-propanamine | N1(C=NC=C1)CCCN | C6H11N3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | p-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chlorophenyl)-N'-[3-(1H-imidazol-1-yl)propyl]urea | ClC1=CC=C(C=C1)NC(=O)NCCCN1C=NC=C1 | C13H15ClN4O
